US04980287
(B) Synthesis of 4-amino-N-acetyl-anthranilic acid
A reaction mixture prepared by dissolving 575 mg of 4-nitro-N-acetyl-anthranilic acid in 200 ml of ethyl acetate and by mixing the resultant solution with 100 mg of a 10% Pd-C catalyst was stirred at room temperature in a hydrogen gas atmosphere for 4 hours. Then, the reaction mixture was filtered through a Celite filter to remove the catalyst, and the catalyst was washed with ethyl acetate. The total amount of the filtrate was collected and concentrated under a reduced a silica gel column chromatography. A final product consisting of 4-amino-N-acetyl-anthranilic acid was obtained in an amount of 450 mg.

reactant | 4-nitro-N-acetyl-anthranilic acid | 575 mg | [N+](=O)([O-])C=1C=C(C(C(=O)O)=CC1)NC(C)=O | C9H8N2O5
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd-C | [Pd] | Pd
product | 4-amino-N-acetyl-anthranilic acid | NC=1C=C(C(C(=O)O)=CC1)NC(C)=O | C9H10N2O3
